US04946837
7β-tert-Butoxycarbonylamino-3-[(4,5,6,7-tetrahydrobenzothiazolium-3-yl)methyl]-3-cephem-4-carboxylate
A mixture consisting of 4.0 g of 7β-tert-butoxycarbonylamino-3-(3-oxobutyryloxymethyl]-3-cephem-4-carboxylic acid, 3.0 g of 4,5,6,7-tetrahydrobenzothiazole, 4 g of potassium iodide, 10 ml of acetonitrile and 10 ml of water is stirred at 70° C. for 1.5 hours. To the reaction mixture is added 30 ml of ethyl acetate and the mixture is stirred. After letting the mixture stand, the upper layer is removed by decanting. To the lower layer is added 30 ml of ethyl acetate and the same work-up is repeated twice. The water-layer is subjected to silica-gel column chromatography using 70 g of silica-gel. After washing of the column by using first 200 ml of acetone and then 200 ml of acetone-water (20:1), elution is conducted by acetone-water (3:1). The fractions containing the objective compound are concentrated and lyophilized to give 0.71 g (yield 15%) of the above-identified compound.

reactant | 7β-tert-butoxycarbonylamino-3-(3-oxobutyryloxymethyl]-3-cephem-4-carboxylic acid | 4.0 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C17H22N2O8S
reactant | 4,5,6,7-tetrahydrobenzothiazole | 3.0 g | S1C=NC2=C1CCCC2 | C7H9NS
reactant | potassium iodide | 4 g | [I-].[K+]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 7β-tert-Butoxycarbonylamino-3-[(4,5,6,7-tetrahydrobenzothiazolium-3-yl)methyl]-3-cephem-4-carboxylate | 0.71 g, yield 15% | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CSC3=C2CCCC3)C(=O)[O-])C1=O | C20H25N3O5S2
